US05891889
Step B: 1-(4 Cyanobenzyl)-5-amino-1H-imidazole hydrochloride.
A solution of 1-(4 cyanobenzyl)-5-nitro-1H-imidazole (100 mg, 0.438 mmol) and 10% palladium on carbon was hydrogenated in the presence of 1 equivalent of HCl under Parr conditions for 1 hr. Removal of the catalyst by filtration and evaporation of solvent in vacuo afforded the title compound.

reactant | 1-(4 cyanobenzyl)-5-nitro-1H-imidazole | 0.438 mmol, 100 mg | C(#N)C1=CC=C(CN2C=NC=C2[N+](=O)[O-])C=C1 | C11H8N4O2
reactant | HCl | 1 equivalent | Cl | ClH
catalyst | palladium on carbon | [Pd] | Pd
product | 1-(4 Cyanobenzyl)-5-amino-1H-imidazole hydrochloride | Cl.C(#N)C1=CC=C(CN2C=NC=C2N)C=C1 | InChI=1S/C11H10N4.ClH/c12-5-9-1-3-10(4-2-9)7-15-8-14-6-11(15)13;/h1-4,6,8H,7,13H2;1H
